US05726165
(R)-4-(2-t-Butoxycarbonylaminopropyl)phenoxymethyl-(3-benzyloxypropyl)phosphinic acid, n-butyl ester
The title compound was prepared from 3-benzyloxypropyl-(4-chlorobenzenesulfonyloxymethyl)phosphinic acid, n-butyl ester and (R)-2-(4-hydroxyphenyl)-1-methylethylcarbamic acid, t-butyl ester according to the method described in Procedure 24. The crude product was purified by chromatography, eluting with dichloromethane containing 3% methanol, to give an oil.

reactant | 3-benzyloxypropyl-(4-chlorobenzenesulfonyloxymethyl)phosphinic acid, n-butyl ester | C(C1=CC=CC=C1)OCCCP(OCCCC)(=O)COS(=O)(=O)C1=CC=C(C=C1)Cl | C21H28ClO6PS
reactant | (R)-2-(4-hydroxyphenyl)-1-methylethylcarbamic acid, t-butyl ester | OC1=CC=C(C=C1)C[C@@H](C)NC(OC(C)(C)C)=O | C14H21NO3
product | (R)-4-(2-t-Butoxycarbonylaminopropyl)phenoxymethyl-(3-benzyloxypropyl)phosphinic acid, n-butyl ester | C(C)(C)(C)OC(=O)NC(CC1=CC=C(OC[P@@](OCCCC)(=O)CCCOCC2=CC=CC=C2)C=C1)C | C29H44NO6P
